US09085570B2
A mixture of di-tert-butyl malonate (4.3 g, 19.91 mmol, 1.99 equiv) and potassium carbonate (2.8 g, 20.29 mmol, 2.03 equiv) in N,N-dimethylformamide (30 mL) was stirred at 65° C. for 30 min A solution of methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate (2.65 g, 10.00 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL) was then added dropwise with stiffing to the reaction mixture. The resulting solution was stirred at 65° C. overnight and then quenched with 60 mL of ice and water. The mixture was extracted with 2×50 mL of ethyl acetate. The combined organic layers was washed with 3×30 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 4.0 g (90%) of methyl 4-(4-(3-tert-butoxy-2-(tert-butoxycarbonyl)-3-oxopropyl)-5-methyloxazol-2-yl)benzoate as a light yellow solid. LC-MS: (ES, m/z): 446 [M+H]+, 390, 334, 272, 230, 115.

reactant | di-tert-butyl malonate | 19.91 mmol, 4.3 g, 1.99 equiv | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | potassium carbonate | 20.29 mmol, 2.8 g, 2.03 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate | 10.00 mmol, 2.65 g, 1.00 equiv | ClCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C13H12ClNO3
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl 4-(4-(3-tert-butoxy-2-(tert-butoxycarbonyl)-3-oxopropyl)-5-methyloxazol-2-yl)benzoate | 4.0 g, 90% | C(C)(C)(C)OC(C(CC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1)C(=O)OC(C)(C)C)=O | C24H31NO7
